************************************************************************
* auCdl Netlist:
* 
* Library Name:  terza_esperienza
* Top Cell Name: diff
* View Name:     schematic
* Netlisted on:  May 31 18:08:29 2024
************************************************************************

.INCLUDE  /nfsd/ichome/lib/umc13_OA/CDL_include_file.cir
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: terza_esperienza
* Cell Name:    diff
* View Name:    schematic
************************************************************************

.SUBCKT diff Iref OUT VDD VI1 VI2 gnd
*.PININFO Iref:B OUT:B VDD:B VI1:B VI2:B gnd:B
MPM1 OUT net1 VDD VDD P_12_HSL130E W=60u L=240.0n M=1.0
MPM0 net1 net1 VDD VDD P_12_HSL130E W=60u L=240.0n M=1.0
MNM3 Iref Iref gnd gnd N_12_HSL130E W=26.5u L=240.0n M=1.0
MNM2 net2 Iref gnd gnd N_12_HSL130E W=26.5u L=240.0n M=1.0
MNM1 OUT VI2 net2 gnd N_12_HSL130E W=13.25u L=240.0n M=1.0
MNM0 net1 VI1 net2 gnd N_12_HSL130E W=13.25u L=240.0n M=1.0
.ENDS

