************************************************************************
* auCdl Netlist:
* 
* Library Name:  seconda_esperienza
* Top Cell Name: funzione_logica
* View Name:     schematic
* Netlisted on:  Apr 29 19:21:44 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: seconda_esperienza
* Cell Name:    funzione_logica
* View Name:    schematic
************************************************************************

.SUBCKT funzione_logica A B C VDD gnd output
*.PININFO A:B B:B C:B VDD:B gnd:B output:B
MPM2 output C VDD VDD P_12_HSL130E W=360.0n L=120.0n M=1.0
MPM1 output B net1 VDD P_12_HSL130E W=720.0n L=120.0n M=1.0
MPM0 net1 A VDD VDD P_12_HSL130E W=720.0n L=120.0n M=1.0
MNM2 net2 C gnd gnd N_12_HSL130E W=255.00n L=120.0n M=1.0
MNM1 output A net2 gnd N_12_HSL130E W=255.00n L=120.0n M=1.0
MNM0 output B net2 gnd N_12_HSL130E W=255.00n L=120.0n M=1.0
.ENDS

